US07521455B2
(2) Manufacture of 3-bromo-4-(3-chloropropoxy)aniline
2-bromo-1-(3-chloropropoxy)-4-nitrobenzene (1.3 g), ammonium chloride (1.3 g) and iron (1.3 g) were added to a mixed solvent of methanol (8 mL) and distilled water (4 mL), and the mixture was heated under reflux for 2 hours. The reaction mixture was filtered through cerite, and the filtrate was concentrated. The residue was dissolved in ethyl acetate, and washed with distilled water and saturated brine. The organic phase was dried with anhydrous sodium sulfate, concentrated and dried to obtain the target substance (0.92 g).

reactant | 2-bromo-1-(3-chloropropoxy)-4-nitrobenzene | 1.3 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])OCCCCl | C9H9BrClNO3
reactant | ammonium chloride | 1.3 g | [Cl-].[NH4+]
catalyst | iron | 1.3 g | [Fe] | Fe
solvent | methanol | 8 mL | CO | CH4O
product | 3-bromo-4-(3-chloropropoxy)aniline | BrC=1C=C(N)C=CC1OCCCCl | C9H11BrClNO
